US04250176
A mixture of 6.95 parts of 1-(5-chloropentyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one, 5.15 parts of 1-(diphenylmethyl)piperazine, 5.30 parts of sodium carbonate, 0.1 parts of potassium iodide and 160 parts of 4-methyl-2-pentanone is stirred and refluxed overnight with water-separator. The reaction mixture is cooled to room temperature, water is added and the layers are separated. The organic phase is dried filtered and evaporated. The residue is stirred and refluxed for 30 minutes with 12 parts of a hydrochloric acid solution in 40 parts of ethanol. The whole is evaporated and the residue is crystallized from ethanol, yielding 1-{5-[4-(diphenylmethyl)-1-piperazinyl]pentyl-1,3-dihydro-2H-benzimidazol-2-one dihydrochloride.hydrate; mp. 215.3° C.

reactant | 1-(5-chloropentyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one | ClCCCCCN1C(N(C2=C1C=CC=C2)C(=C)C)=O | C15H19ClN2O
reactant | 1-(diphenylmethyl)piperazine | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 5-[4-(diphenylmethyl)-1-piperazinyl]pentyl-1,3-dihydro-2H-benzimidazol-2-one dihydrochloride | Cl.Cl.C1(=CC=CC=C1)C(N1CCN(CC1)CCCCCN1C(NC2=C1C=CC=C2)=O)C2=CC=CC=C2 | InChI=1S/C29H34N4O.2ClH/c34-29-30-26-16-8-9-17-27(26)33(29)19-11-3-10-18-31-20-22-32(23-21-31)28(24-12-4-1-5-13-24)25-14-6-2-7-15-25;;/h1-2,4-9,12-17,28H,3,10-11,18-23H2,(H,30,34);2*1H
